US07560551B2
Synthesis of 4-Chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one
The title compound was prepared according to the procedure described in WO2001046196A1. A mixture of 3,3-dibromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one (4.07 g, 12.5 mmol), zinc dust (8.15 g, 125 mmol), AcOH (54.2 ml, 12.5 mmol), and MeOH (54.2 ml, 12.5 mmol) was stirred at rt. After 3 h, the reaction mixture was passed through a pad of celite with an aid of EtOAc. The filtrate was then diluted with brine. The whole was extracted with EtOAc. The organic layer was further washed with brine, dried over MgSO4, filtered, concentrated. The product was purified by column chromatography on silica gel using 70:30 DCM:(90:10:1 DCM:MeOH:NH4OH). Fractions containing the product were concentrated. White cotton-like solid, 4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one was obtained. MS Calcd for C7H5ClN2O: [M]+=168. Found: [M+H]+169.

reactant | 3,3-dibromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | 12.5 mmol, 4.07 g | BrC1(C(NC2=NC=CC(=C21)Cl)=O)Br | C7H3Br2ClN2O
reactant | AcOH | 12.5 mmol, 54.2 ml | CC(=O)O | C2H4O2
reactant | MeOH | 12.5 mmol, 54.2 ml | CO | CH4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | zinc | 125 mmol, 8.15 g | [Zn] | Zn
product | 4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | ClC1=C2C(=NC=C1)NC(C2)=O | C7H5ClN2O
